US07825128B2
(RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-cyclopropylsulfoximide
In the reaction of (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol (155 mg, 0.57 mmol) with (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-phenyl-sulfoximide (159 mg, 0.52 mmol) according to procedure 5c, the desired product is obtained in 43% yield (120 mg) after chromatographic purification (silica gel, dichloromethane/ethanol (0%-20% ethanol)).

reactant | (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol | 0.57 mmol, 155 mg | ClC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C11H12ClN3OS
reactant | (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-phenyl-sulfoximide | 0.52 mmol, 159 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C1=CC=CC=C1 | C15H16N2O3S
product | (RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-cyclopropylsulfoximide | 43% yield | C(C)OC(=O)N=S(=O)(C1CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C23H27N5O4S2
